US07750145B2
To a solution of 3-fluoro-4-nitrotoluene (3.1 g) in tetra hydrofuran (160 mL) was added vinyl magnesium bromide (1.0 mol/L tetra hydrofuran solution, 60.0 mL) at −40° C., and the mixture was stirred at the same temperature for 1 hour. To the mixture was added a saturated aqueous ammonium chloride solution, and the resulting mixture was stirred at room temperature for 1 hour. The mixture was extracted with diethyl ether. The extract was washed with a saturated aqueous ammonium chloride solution, water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on amino-propylated silica gel (eluent: n-hexane/ethyl acetate=19/1-4/1) to give 7-fluoro-5-methyl-1H-indole (0.96 g). The title compound was prepared in a similar manner to that described in Reference Example 1 using this material instead of 4-methyl-1H-indole.

reactant | 3-fluoro-4-nitrotoluene | 3.1 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | vinyl magnesium bromide | 1.0 mol/L, 60.0 mL | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetra hydrofuran | 160 mL | O1CCCC1 | C4H8O
product | 7-fluoro-5-methyl-1H-indole | 0.96 g | FC=1C=C(C=C2C=CNC12)C | C9H8FN
